US08420647B2
4-(4-Bromo-2,5-dichloro-phenoxy)-nicotinic acid
To a stirred suspension of 6.0 g (38.08 mmol) 4-chloronicotinic acid (commercially available; CAS RN 10177-29-4) in 200 mL o-xylene were added 10.13 g (41.89 mmol) 4-bromo-2,5-dichlorophenol (commercially available; CAS RN 1940-42-7) and 2.84 g (7.62 mmol) tetrakis-(acetonitrile)-copper hexafluorophosphate (commercially available; CAS RN 64443-05-6). Then 31.31 g (95.20 mmol) cesium carbonate were added and the resulting dark brown suspension as heated to 120° C. for 16 hours. After cooling to room temperature, the solvent was evaporated, the residue dissolved in 1.25 l water, extracted four times with 250 mL ethyl acetate and filtered. The pH of the green filtrate was adjusted to 6 using 25% aqueous hydrochloric acid. The formed precipitate was filtered off to give a first batch of the desired compound. The pH of the filtrate was adjusted to pH 3 using 25% aqueous hydrochloric acid, the suspension stirred for 0.25 hours at room temperature and then kept in the fridge for 64 hours. The suspension was filtered and washed with water to yield another batch of compound. Brown solid (overall yield 5.63 g (41%)). MS (ESI): m/z=363.9 [M+H]+.

reactant | 4-chloronicotinic acid | 38.08 mmol, 6.0 g | ClC1=CC=NC=C1C(=O)O | C6H4ClNO2
reactant | 4-bromo-2,5-dichlorophenol | 41.89 mmol, 10.13 g | BrC1=CC(=C(C=C1Cl)O)Cl | C6H3BrCl2O
reactant | cesium carbonate | 95.20 mmol, 31.31 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | o-xylene | 200 mL | CC=1C=CC=CC1C | C8H10
product | 4-(4-Bromo-2,5-dichloro-phenoxy)-nicotinic acid | BrC1=CC(=C(OC2=CC=NC=C2C(=O)O)C=C1Cl)Cl | C12H6BrCl2NO3
